US07507740B2
(i) Production of 4-chloro-5-isobutyl-5H-pyrrolo[3,2-d]pyrimidine
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (150 mg) in N,N-dimethylformamide (1.6 mL) was added cesium carbonate (478 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. To the reaction mixture was added 1-bromo-2-methylpropane (336 mg), and the mixture was stirred at room temperature for 19 hrs. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (30 mL×3). The organic layer was washed with saturated brine (30 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=90/10→20/80). The object fraction was concentrated under reduced pressure and dried to give the title compound (210 mg) as a white solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 150 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 478 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-methylpropane | 336 mg | BrCC(C)C | C4H9Br
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-chloro-5-isobutyl-5H-pyrrolo[3,2-d]pyrimidine | 210 mg | ClC=1C2=C(N=CN1)C=CN2CC(C)C | C10H12ClN3
